US04112086
To a solution of 2.85 g (11.1 mmol) of methyl 1-diethoxyphosphinylmethyldithiocarbamate in 25 ml of ethanol was added a solution of 0.72 g (11.1 mmol) of sodium azide in 5 ml of water. The reaction mixture was refluxed for 2.5 hours then evaporated to near dryness. Water (20 ml) was added and the aqueous mixture was layered with 40 ml of ethyl acetate and acidified to pH 2.2 by addition of 6N sulfuric acid. The layers were separated and the aqueous phase was extracted twice with ethyl acetate. The ethyl acetate solutions were combined, dried (MgSO4) and evaporated to dryness to give 1-diethoxyphosphinylmethyltetrazole-5-thiol.

reactant | methyl 1-diethoxyphosphinylmethyldithiocarbamate | 11.1 mmol, 2.85 g | C(C)OP(=O)(CNC(SC)=S)OCC | C7H16NO3PS2
reactant | sodium azide | 11.1 mmol, 0.72 g | [N-]=[N+]=[N-].[Na+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | 1-diethoxyphosphinylmethyltetrazole-5-thiol | C(C)OP(=O)(OCC)CN1N=NN=C1S | C6H13N4O3PS
